US07105563B2
Alternatively, a solution of 5-aminomethylindolin-2-one acetate salt (220 mg, 1 mmol) in ethanol (10 mL) was treated with diisopropylethylamine (DIEA) (3 mL). After 20 minutes, 2-pyrrolecarboxaldehyde (95 mg, 1 mmol) and pyrrolidine (0.05 mL) were added and the reaction mixture was stirred at 60° C. for 3 hours. Concentration of the solvent gave an oil which was purified by reverse phase HPLC (acetonitrile/water) to afford 5-aminomethyl-3-[(pyrrol-2-yl)methylene]indolin-2-one; as a trifluoroacetate salt (70 mg); 1H NMR (400 MHz, DMSO-d6) δ 3.98 (m, 2H), 6.36 (m, 1H), 6.84 (brs, 1H), 6.88 (d, 1H), 7.22 (d, 1H), 7.34 (s, 1H), 7.62 (s, 1H), 7.68 (s, 1H), 8.20 (brs, 2H), 11.00 (s, 1H) ppm.

reactant | 5-aminomethylindolin-2-one acetate salt | 1 mmol, 220 mg | C(C)(=O)O.NCC=1C=C2CC(NC2=CC1)=O
reactant | diisopropylethylamine | 3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-pyrrolecarboxaldehyde | 1 mmol, 95 mg | N1C(=CC=C1)C=O | C5H5NO
reactant | pyrrolidine | 0.05 mL | N1CCCC1 | C4H9N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-aminomethyl-3-[(pyrrol-2-yl)methylene]indolin-2-one | NCC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=CC1 | C14H13N3O
